US07230020B2
Synthesis of 4-propyl-N-quinazolin-6-yl-benzenesulfonamide, STX 944 (KRB01069)
To a solution of 4n-propylbenzenesulphonyl chloride (151 mg, 0.723 mmol) in dichloromethane (4 mL) was added pyridine (140 μL, 1.72 mmol) and the mixture was stirred under N2 for 5 min, after which time 6-aminoquinazoline (100 mg, 0.689 mmol) was added. The resulting mixture was stirred for 4 h at room temperature, then saturated NaHCO3 solution (10 mL) was added and the mixture was extracted into ethyl acetate (20 mL). The organic phase was washed with brine, dried (Na2SO4), filtered and evaporated to give a residue that was purified using flash chromatography to afford a pale yellow solid (47 mg, 21%), single spot at Rf 0.57 (ethyl acetate). mp 202.1-202.6° C., HPLC purity 96% (tR 2.14 min in 10% water-acetonitrile). 1H NMR (CDCl3): δ 9.30 (1H, s), 9.24 (1H, s), 7.99-7.92 (2H, m), 7.77 (2H, d, J=8.4 Hz), 7.68-7.63 (2H, m), 7.23 (1H, d, J=7.7 Hz), 2.57 (2H, t, J=7.6 Hz), 1.57 (2H, sextet, J=7.6 Hz), 0.87 (3H, t, J=7.4 Hz). LCMS: 326.24 (M−). FAB-MS (MH+, C17H17N3O2S): calcd 328.1119, found 328.1118.

reactant | 4n-propylbenzenesulphonyl chloride | 0.723 mmol, 151 mg | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | pyridine | 1.72 mmol, 140 μL | N1=CC=CC=C1 | C5H5N
reactant | 6-aminoquinazoline | 0.689 mmol, 100 mg | NC=1C=C2C=NC=NC2=CC1 | C8H7N3
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-propyl-N-quinazolin-6-yl-benzenesulfonamide | 47 mg, 21% | C(CC)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=NC=NC2=CC1 | C17H17N3O2S
